US05117009
5-(9-Oxoxanthen-2-oxy)valeric Acid
Ethyl 5-(9-oxoxanthen-2-oxy)valerate (8.0 g, 24 mmol) prepared as described above was dissolved in a mixture of benzene (10 mL), 95% EtOH (40 mL), and water (5 mL), and 4N aqueous KOH (8 mL) was added. The mixture was refluxed for 6 hours (reaction complete by TLC), and partially concentrated (final volume ~10 mL). Absolute EtOH (10 mL) was added, and the resulting white precipitate was collected and washed with EtOH (2×10 mL). Yield: 1.7 g (21%), of potassium salt. The filtrate was evaporated, and the residue was dissolved in water (100 mL). The aqueous solution was extracted with EtOAc (3×20 mL), and the aqueous phase was added dropwise to a mixture of ice-water (100 mL) and 12N aqueous HCl (15 mL). A light-gray precipitate formed, which was collected, washed with water (3×10 mL), and dried. Yield: 5.45 g (74%) of free acid. A small amount of the product was recrystallized from n-hexane-EtOH (10:1) for elemental analysis. Fine white needles.

reactant | Ethyl 5-(9-oxoxanthen-2-oxy)valerate | 24 mmol, 8.0 g | O=C1C2=CC=CC=C2OC=2C=CC(=CC12)OCCCCC(=O)OCC | C20H20O5
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
solvent | EtOH | 40 mL | CCO | C2H6O
solvent | water | 5 mL | O | H2O
solvent | KOH | 4N, 8 mL | [OH-].[K+]
product | 5-(9-Oxoxanthen-2-oxy)valeric Acid | O=C1C2=CC=CC=C2OC=2C=CC(=CC12)OCCCCC(=O)O | C18H16O5
